US07671080B2
Sodium hydride (60% dispersion in mineral oil, 0.44 g, 7.45 mmol) was added to a suspension of 5-chloro-1H-indole-2-carboxylic acid ethyl ester (2.00 g, 8.94 mmol) in N,N′-dimethylformamide (DMF) (20 ml) under nitrogen. The mixture was stirred for 1 h before addition of the 3-methylbenzyl bromide (2.07 g, 2.48 ml) and the reaction stirred for 17.5 h. Water was added to reaction mixture which precipitated product as a gummy solid. Supernatant liquid was decanted and the solid washed with water. The product was dissolved in dichloromethane (DCM), washed with water, dried over magnesium sulfate and concentrated. Purification by silica chromatography using DCM as eluent, yielded 5-chloro-1-(3-methylbenzyl)-1H-indole-2-carboxylic acid ethyl ester (3.03 g, 95%).

reactant | Sodium hydride | 7.45 mmol, 0.44 g | [H-].[Na+]
reactant | 5-chloro-1H-indole-2-carboxylic acid ethyl ester | 8.94 mmol, 2.00 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Cl | C11H10ClNO2
reactant | 3-methylbenzyl bromide | 2.48 ml, 2.07 g | CC=1C=C(CBr)C=CC1 | C8H9Br
reactant | Water | O | H2O
solvent | N,N′-dimethylformamide | 20 ml | CN(C)C=O | C3H7NO
product | 5-chloro-1-(3-methylbenzyl)-1H-indole-2-carboxylic acid ethyl ester | 3.03 g, 95% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Cl)CC1=CC(=CC=C1)C | C19H18ClNO2
